US05324747
To a stirred solution of 9.37 g (0.018 mol) of 3-(octadecyloxy)-5-[(5-methoxy-5-oxopentyl)oxy]benzoic acid in 200 ml of anhydrous toluene stirred with ice bath cooling under an argon atmosphere was added 4.7 ml (0.021 mol) of diphenylphosphoryl azide followed by 3.0 ml (0.021 mol) of triethylamine added dropwise over 15 minutes. The reaction mixture was stirred in the ice bath for 2 hours and then was heated at 90° for 2 hours. Benzyl alcohol (65 ml) was added and heating at 90° was continued for 4 hours. The solvent and excess benzyl alcohol were removed at reduced pressure and the residue was dissolved in ethyl acetate. The extract was washed with NaHCO3 solution, dried and concentrated at reduced pressure to a solid. Purification by chromatography on 150 g of silica gel using methylene chloride gave 8.9 g (79% yield, mp 59°-62°) of 3-(octadecyloxy)-5-[(5-methoxy-5-oxopentyl)oxy]phenylcarbamic acid phenylmethyl ester. The structure was confirmed by the nmr spectrum.

reactant | 3-(octadecyloxy)-5-[(5-methoxy-5-oxopentyl)oxy]benzoic acid | 0.018 mol, 9.37 g | C(CCCCCCCCCCCCCCCCC)OC=1C=C(C(=O)O)C=C(C1)OCCCCC(=O)OC | C31H52O6
reactant | diphenylphosphoryl azide | 0.021 mol, 4.7 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 0.021 mol, 3.0 ml | C(C)N(CC)CC | C6H15N
reactant | Benzyl alcohol | 65 ml | C(C1=CC=CC=C1)O | C7H8O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(octadecyloxy)-5-[(5-methoxy-5-oxopentyl)oxy]phenylcarbamic acid phenylmethyl ester | 8.9 g, 79% yield | C1(=CC=CC=C1)COC(NC1=CC(=CC(=C1)OCCCCC(=O)OC)OCCCCCCCCCCCCCCCCCC)=O | C38H59NO6
